US07517910B2
3-(4-{[3-(1,3,5-trimethyl-1H-pyrazol-4-yl)benzyl]oxy}phenyl)propanoic acid
To a mixed solution of methyl 3-(4-{[3-(1,3,5-trimethyl-1H-pyrazol-4-yl)benzyl]oxy}phenyl)propanoate (0.406 g, 1.07 mmol) in methanol (5 mL) and tetrahydrofuran (5 mL) was added 2 M aqueous sodium hydroxide solution (1.5 mL), and the mixture was stirred at room temperature for 20 hr. Water was added to the reaction mixture, and the mixture was neutralized with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (0.391 g, quantitative) as colorless needle crystals. MS: m/z 365 (MH+).

reactant | methyl 3-(4-{[3-(1,3,5-trimethyl-1H-pyrazol-4-yl)benzyl]oxy}phenyl)propanoate | 1.07 mmol, 0.406 g | CN1N=C(C(=C1C)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1)C | C23H26N2O3
reactant | sodium hydroxide | 2 M, 1.5 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(4-{[3-(1,3,5-trimethyl-1H-pyrazol-4-yl)benzyl]oxy}phenyl)propanoic acid | 0.391 g | CN1N=C(C(=C1C)C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1)C | C22H24N2O3
